US09085570B2
A solution of methyl 4-(5-methyl-4-((4-(trifluoromethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate (700 mg, 1.59 mmol, 1.00 equiv) in 6N hydrochloric acid (30 mL) was refluxed for 8 h. The reaction mixture was cooled to room temperature and diluted with 100 g of water/ice. The solid was collected by filtration, washed with 2×20 mL of water and dried in a vacuum oven to afford 0.6 g (89%) of 4-(5-methyl-4-((4-(trifluoromethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid as a white solid.

reactant | methyl 4-(5-methyl-4-((4-(trifluoromethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoate | 1.59 mmol, 700 mg, 1.00 equiv | CC1=C(N=C(O1)C1=CC=C(C(=O)OC)C=C1)CS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C20H16F3NO5S
solvent | hydrochloric acid | 6N, 30 mL | Cl | ClH
product | 4-(5-methyl-4-((4-(trifluoromethyl)phenylsulfonyl)methyl)oxazol-2-yl)benzoic acid | 0.6 g, 89% | CC1=C(N=C(O1)C1=CC=C(C(=O)O)C=C1)CS(=O)(=O)C1=CC=C(C=C1)C(F)(F)F | C19H14F3NO5S
